US04599344
1-Heptyl-2-[3-(4-((methylsulfonyl)amino)phenyl)propyl]-1-azoniabicyclo[2.2.2]octane bromide
React N-[4-(3-(1-azabicyclo[2.2.2]oct-2-yl)propyl)phenyl]methanesulfonamide with heptyl bromide in a manner similar to Example II, Method A, to afford the title compound.

reactant | N-[4-(3-(1-azabicyclo[2.2.2]oct-2-yl)propyl)phenyl]methanesulfonamide | N12C(CC(CC1)CC2)CCCC2=CC=C(C=C2)NS(=O)(=O)C | C17H26N2O2S
reactant | heptyl bromide | C(CCCCCC)Br | C7H15Br
product | 1-Heptyl-2-[3-(4-((methylsulfonyl)amino)phenyl)propyl]-1-azoniabicyclo[2.2.2]octane bromide | [Br-].C(CCCCCC)[N+]12C(CC(CC1)CC2)CCCC2=CC=C(C=C2)NS(=O)(=O)C | InChI=1S/C24H41N2O2S.BrH/c1-3-4-5-6-7-17-26-18-15-22(16-19-26)20-24(26)10-8-9-21-11-13-23(14-12-21)25-29(2,27)28;/h11-14,22,24-25H,3-10,15-20H2,1-2H3;1H/q+1;/p-1
